US08440710B2
Sodium hydride (55%, 3.22 g) was added to DMF (20 mL) and the mixture was cooled to 0° C. Then, (R)-1,1,1-trifluoro-2-propanol (8.5 g) [CAS 17628-73-8] was added over a period of 1 hour and stirring was continued for 30 minutes at 0° C. A solution of 1-fluoro-4-nitro-benzene [CAS 350-46-9] (10 g) in DMF (15 mL) was added over a period of 1.5 hours while the internal temperature was kept between 5 to 15° C. Following addition, the mixture was allowed to warm to RT and stirring was continued for another 12 hours. The reaction mixture was acidified and partitioned between ethyl acetate and water. The organic layer was separated, dried over Na2SO4 and evaporated to dryness. The residue was dissolved in methanol (150 mL) and Pd on carbon (10% Pd, 1 g) was added. The mixture was then hydrogenated at RT for 12 hours. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to provide crude 4-((R)-2,2,2-trifluoro-1-methyl-ethoxy)-phenylamine as a dark liquid (14.5 g). MS (m/e): 206.1 (MH+).

reactant | Sodium hydride | 3.22 g | [H-].[Na+]
reactant | (R)-1,1,1-trifluoro-2-propanol | 8.5 g | FC([C@@H](C)O)(F)F | C3H5F3O
reactant | 1-fluoro-4-nitro-benzene | 10 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-((R)-2,2,2-trifluoro-1-methyl-ethoxy)-phenylamine | 14.5 g | FC([C@H](OC1=CC=C(C=C1)N)C)(F)F | C9H10F3NO
